US06720320B2
1-(4-Methoxybenzo(b)furan-2-yl)butan-1,3-dione (1.0 g) was dissolved in methanol (30 ml) and methylhydrazine (0.3 g) was added thereto. The mixture was refluxed under heating for 20 min. The reaction solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/acetone). To the obtained oil was added methylene chloride (30 ml), and the mixture was cooled to −40° C., and boron tribromide (1 ml) was added dropwise. After the completion of the reaction, the mixture was poured into water and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and after filtration, the solvent was evaporated under reduced pressure to give 3-(4-hydroxybenzo(b)furan-2-yl)-1,5-dimethylpyrazole (0.85 g) as a brown oil. Using this and (S)-glycidyl nosylate (0.75 g) and in the same manner as in Starting Material Synthesis Example 1, the title compound (0.53 g) was obtained as a brown oil.

reactant | 1-(4-Methoxybenzo(b)furan-2-yl)butan-1,3-dione | 1.0 g | COC1=CC=CC=2OC(=CC21)C(CC(C)=O)=O | C13H12O4
reactant | methylhydrazine | 0.3 g | CNN | CH6N2
reactant | water | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | 3-(4-hydroxybenzo(b)furan-2-yl)-1,5-dimethylpyrazole | 0.85 g | OC1=CC=CC=2OC(=CC21)C2=NN(C(=C2)C)C | C13H12N2O2
